US08030334B2
A flask is charged with N-hydroxymethyl-2,2-dimethyl-propionamide (0.500 g, 3.81 mmol) and dichloromethane (4 mL). Oxalyl chloride (0.8 mL, 9.52 mmol) is added and the reaction mixture is stirred at room temperature for 2 h. Concentration in vacuo gives N-chloromethyl-2,2-dimethyl-propionamide as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.23 (s, 9H), 5.31 (s, 2H).

reactant | N-hydroxymethyl-2,2-dimethyl-propionamide | 3.81 mmol, 0.500 g | OCNC(C(C)(C)C)=O | C6H13NO2
reactant | Oxalyl chloride | 9.52 mmol, 0.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-chloromethyl-2,2-dimethyl-propionamide | ClCNC(C(C)(C)C)=O | C6H12ClNO
